US04073890
(d) Preparation of Leu-Arg-Gly-Phe-Phe-Tyr-NH2
In 30 ml. of acetic acid was dissolved 400 mg. of Z-Leu-Arg(NO2)-Gly-Phe-Phe-Tyr-NH2 and catalytic reduction was carried out with Pd-black as a catalyst for 10 hours. The catalyst was filtered off and the solvent was distilled off under reduced pressure. The residue was dissolved in 5 ml. of water and the solution was passed through a column (2.6 × 22 cm) of carboxylmethyl-cellulose.

reactant | Z-Leu-Arg(NO2)-Gly-Phe-Phe-Tyr-NH2 | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N)C(=O)OCC1=CC=CC=C1 | C49H61N11O11
catalyst | Pd | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Leu-Arg-Gly-Phe-Phe-Tyr-NH2 | N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N | C41H56N10O7
